US08557805B2
5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylic acid
To a solution of ethyl 5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylate (5.6 g) in ethanol (100 mL) and tetrahydrofuran (100 mL) was added 1N aqueous sodium hydroxide solution (31.1 mL), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was concentrated, 1N hydrochloric acid (32 mL) was added, and the precipitated crystals were filtered and concentrated under reduced pressure to give the title compound (5.2 g, yield 100%) as white crystals.

reactant | ethyl 5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylate | 5.6 g | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C17H16N2O5S
reactant | sodium hydroxide | 1N, 31.1 mL | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-{[6-(Methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carboxylic acid | 5.2 g, yield 100% | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=CC1)C(=O)O | C15H12N2O5S
